US07767674B2
4-{3-[3-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-ureido]-5-fluoro-phenoxy}-piperidine-1-carboxylic Acid Amide
Nitrogen gas is bubbled trough a solution of 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-fluoro-5-(piperidin-4-yloxy)-phenyl}-urea (390.6 mg, 1.0 mmol) and carbamic acid phenyl ester (140.6 mg, 1.0 mmol) in DMSO (2 mL) for 5 minutes. Next, N,N-diisopropylethylamine (350 μL, 2.0 mmol) is added. After stirred at 85° C. overnight, the reaction mixture is distributed between ethyl acetate (15 mL) and saturated sodium bicarbonate (50 mL). The aqueous phase is isolated and extracted with ethyl acetate (2×15 mL). The combined organic phases are dried over sodium sulfate and concentrated. The residue is purified on a silica gel chromatography with hexanes and ethyl acetate to give a white solid (250 mg, 58% yield, ES+(m/z) 433.3 [M+H]).

reactant | 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-fluoro-5-(piperidin-4-yloxy)-phenyl}-urea | 1.0 mmol, 390.6 mg | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC(=CC(=C1)OC1CCNCC1)F | C20H28FN5O2
reactant | carbamic acid phenyl ester | 1.0 mmol, 140.6 mg | C1(=CC=CC=C1)OC(N)=O | C7H7NO2
reactant | N,N-diisopropylethylamine | 2.0 mmol, 350 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 4-{3-[3-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-ureido]-5-fluoro-phenoxy}-piperidine-1-carboxylic Acid Amide | 58% yield | C(C)(C)(C)C=1C=C(N(N1)C)NC(NC=1C=C(OC2CCN(CC2)C(=O)N)C=C(C1)F)=O | C21H29FN6O3
